.title LT6201 Non-Inverting Amplifier

VCC vcc 0 DC 5
VEE vee 0 DC -5
Vin in 0 AC 1

Rg fb 0 1k
Rf out fb 4k
XU1 in fb out vcc vee LT6201
Rload out 0 1k

.ac dec 30 1k 100Meg
.end
